US06184242B2
A solution of 4-(4-methoxybenzoyl)-nitrobenzene (150 g, 0.58 mol), glacial acetic acid (500 mL), and hydrobromic acid (48% w/w aqueous solution, 400 mL) was heated under reflux for 16 hours. The reaction mixture was cooled to room temperature and poured onto crushed ice. The crude product as filtered, washed several times with water and dried at about 50° C. under high vacuum. Crystallization from ethyl acetate/hexanes gave 4-(4-hydroxybenzoyl)-nitrobenzene (114 g, 81%), m.p. 190-193° C.; Analysis for C13H9NO4: Calc.: C, 64.20; H, 3.73; N, 5.76; Found: C, 63.95; H, 3.65; N, 5.85; MS m/e (%): 243 (M+; 45).

reactant | 4-(4-methoxybenzoyl)-nitrobenzene | 0.58 mol, 150 g | COC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H11NO4
reactant | hydrobromic acid | 400 mL | Br | BrH
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 4-(4-hydroxybenzoyl)-nitrobenzene | 114 g, 81% | OC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H9NO4
